US08202868B2
f.3 4-Methyl-5-ethyl-4H-[1,2,4]triazole-3-thiol
The reaction was performed similar to the method described for the preparation 4-Methyl-5-methoxymethyl-4H-[1,2,4]triazole-3-thiol by reacting 16.4 g of N,N′-carbonyldiimidazol (0.101 mol) with 5 g of propionic acid (0.067 mol) and 14.2 g of 4-methyl-3-thiosemicarbazid (0.135 mol). Yield: 3.8 g

reactant | 4-Methyl-5-methoxymethyl-4H-[1,2,4]triazole-3-thiol | CN1C(=NN=C1COC)S | C5H9N3OS
reactant | propionic acid | 0.067 mol, 5 g | C(CC)(=O)O | C3H6O2
reactant | 4-methyl-3-thiosemicarbazid | 0.135 mol, 14.2 g | CNC(NN)=S | C2H7N3S
product | 4-Methyl-5-ethyl-4H-[1,2,4]triazole-3-thiol | CN1C(=NN=C1CC)S | C5H9N3S
